US07960394B2
3-Methyl-2-[4-(3-piperidin-1-ylpropoxy)phenyl]-6-trifluoromethylcarbonylamino-4(3H)-quinazolinone
The entitled compound was obtained according to the method of Example 70 but starting from 2-amino-5-nitrobenzoic acid, methylamine and 4-(3-piperidin-1-ylpropoxy)benzaldehyde and trifluoroacetic anhydride.

reactant | 2-amino-5-nitrobenzoic acid | NC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | methylamine | CN | CH5N
reactant | 4-(3-piperidin-1-ylpropoxy)benzaldehyde | N1(CCCCC1)CCCOC1=CC=C(C=O)C=C1 | C15H21NO2
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 3-Methyl-2-[4-(3-piperidin-1-ylpropoxy)phenyl]-6-trifluoromethylcarbonylamino-4(3H)-quinazolinone | CN1C(=NC2=CC=C(C=C2C1=O)NC(=O)C(F)(F)F)C1=CC=C(C=C1)OCCCN1CCCCC1 | C25H27F3N4O3
